US07109354B2
b) 3-{3 ′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-ylmethoxy}-propionic acid
To a solution of 3-{3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-ylmethoxy}-propionic acid ethyl ester (7.0 mg, 11 μmol) in THF (0.5 mL) and MeOH (0.25 mL) was added a solution of lithium hydroxide monohydrate (0.56 mg, 13 μmol) in H2O (50 mL). The mixture was microwaved at 80° C. for 150 seconds, acidified with 0.25 N HCl to ˜pH 3, extracted with EtOAc/DCM (1:1, 3×). The extracts were combined, washed with H2O, dried over Na2SO4, concentrated, and flash chromatographed on silica gel column, eluting with MeOH/DCM (2 to 4%) to give the title compound (5.1 mg, 76% yield) as a white solid.

reactant | 3-{3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-ylmethoxy}-propionic acid ethyl ester | 11 μmol, 7.0 mg | C(C)OC(CCOCC1=C(C(=CC=C1)C)C1=CC(=CC=C1)S(=O)(=O)C1=C(SC(=C1)C(=N)NC(=O)OC(C)(C)C)SC)=O | C30H36N2O7S3
reactant | lithium hydroxide monohydrate | 13 μmol, 0.56 mg | O.[OH-].[Li+]
reactant | HCl | 0.25 N | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.25 mL | CO | CH4O
solvent | H2O | 50 mL | O | H2O
product | 3-{3 ′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-ylmethoxy}-propionic acid | 5.1 mg, 76% yield | C(C)(C)(C)OC(=O)NC(C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)COCCC(=O)O)=N | C28H32N2O7S3
